US06919338B2
N′-(2-cyano-4-methoxy-5-benzyloxyphenyl)-N,N-dimethylimidoformamide
2-amino-4-benzyloxy-5-methoxy benzonitrile (102 g, 400 mmol) in toluene (1.51) was reacted with DMF-DMA (110 ml, 780 mmol) at reflux for 5 hours. The solvent was evaporated, the residue triturated with ether to give title compound as yellow solid.

reactant | 2-amino-4-benzyloxy-5-methoxy benzonitrile | 400 mmol, 102 g | NC1=C(C#N)C=C(C(=C1)OCC1=CC=CC=C1)OC | C15H14N2O2
reactant | DMF-DMA | 780 mmol, 110 ml | CN(C)C(OC)OC | C5H13NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N′-(2-cyano-4-methoxy-5-benzyloxyphenyl)-N,N-dimethylimidoformamide | C(#N)C1=C(C=C(C(=C1)OC)OCC1=CC=CC=C1)N=CN(C)C | C18H19N3O2
